US08119800B2
To a stirred solution of 6-(3-bromo-5-methylbenzoyl)-5-isopropylpyrimidine-2,4(1H,3H)-dione (2.14 kg, 6.09 mol) in anhydrous DMF (5 L) under nitrogen, were added zinc cyanide (428 g), DPPF (73 g), and Pd2dba3 (56 g), in this order. The mixture was heated to 110-120° C. and stirred vigorously for 2 hours. After cooling to room temperature, K2CO3 (1.88 kg) and iodoethane (1.15 L, 14.31 mol) were added to the mixture. The mixture was heated to 60-65° C. and stirred for 18 hours. After cooling to room temperature, the mixture was diluted with water (20 L). The precipitate was collected by filtration, washed with water (10 L) and then dissolved in dichloromethane (30 L). The solution was washed with water (10 L), 2N-HCl (10 L), dried with anhydrous magnesium sulfate (1 kg), and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography (eluent: ethyl acetate/dichloromethane, 1:9) to afford 3-(3-ethyl-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidine-4-carbonyl)-5-methylbenzonitrile (951 g, 2.92 mol, 48%) as a white solid.

reactant | 6-(3-bromo-5-methylbenzoyl)-5-isopropylpyrimidine-2,4(1H,3H)-dione | 6.09 mol, 2.14 kg | BrC=1C=C(C(=O)C2=C(C(NC(N2)=O)=O)C(C)C)C=C(C1)C | C15H15BrN2O3
reactant | K2CO3 | 1.88 kg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 14.31 mol, 1.15 L | ICC | C2H5I
reactant | DMF | 5 L | CN(C)C=O | C3H7NO
solvent | water | 20 L | O | H2O
catalyst | zinc cyanide | 428 g | [C-]#N.[Zn+2].[C-]#N
catalyst | DPPF | 73 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd2dba3 | 56 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(3-ethyl-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidine-4-carbonyl)-5-methylbenzonitrile | 2.92 mol, 951 g, 48% | C(C)N1C(NC(C(=C1C(=O)C=1C=C(C#N)C=C(C1)C)C(C)C)=O)=O | C18H19N3O3
